US06090802
By using 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-(diphenylphosphoryloxy)-1-carbapen-2-em-3-carboxylate (960 mg) and (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-[(2S)-1-(4-nitrobenzyloxycarbonyl)azetidin-2-ylcarbonylamino]pyrrolidin-1-ylcarbonyl]pyrrolidine (1.06 g), reaction and purification were carried out in a similar manner to that described in Example 1-(1), whereby 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-[(2S)-1-(4-nitrobenzyloxycarbonyl)azetidin-2-ylcarbonylamino]pyrrolidin-1-ylcarbonyl]pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate (1.14 g) was obtained as a powder.

reactant | 4-nitrobenzyl (1R,5R,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-(diphenylphosphoryloxy)-1-carbapen-2-em-3-carboxylate | 960 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)OP(=O)(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C29H27N2O8P
reactant | (2S,4S)-4-mercapto-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-[(2S)-1-(4-nitrobenzyloxycarbonyl)azetidin-2-ylcarbonylamino]pyrrolidin-1-ylcarbonyl]pyrrolidine | 1.06 g | S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(=O)N1C[C@H](CC1)NC(=O)[C@H]1N(CC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C29H32N6O10S
product | 4-nitrobenzyl (1R,5S,6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-[(2S,4S)-1-(4-nitrobenzyloxycarbonyl)-2-[(3S)-3-[(2S)-1-(4-nitrobenzyloxycarbonyl)azetidin-2-ylcarbonylamino]pyrrolidin-1-ylcarbonyl]pyrrolidin-4-ylthio]-1-carbapen-2-em-3-carboxylate | 1.14 g | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@H]2C[C@H](N(C2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)N2C[C@H](CC2)NC(=O)[C@H]2N(CC2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C46H48N8O16S
